US06258953B1
A mixture of 2-fluoronitrobenzene (6.0 mL, 56.9 mmol) and N-methylpiperazine (8.11 mL, 56.9 mmol) was stirred at 0° C. for 20 minutes, then at room temperature for 3 days. The crude mixture was partitioned between methylene chloride and saturated aqueous sodium bicarbonate and the organic layer was then washed with saturated sodium chloride (NaCl), dried and concentrated in vacuo to provide 2-(4-methylpiperazin-1-yl)-1-nitrobenzene as an orange oil, 12.4 g.

reactant | 2-fluoronitrobenzene | 56.9 mmol, 6.0 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N-methylpiperazine | 56.9 mmol, 8.11 mL | CN1CCNCC1 | C5H12N2
product | 2-(4-methylpiperazin-1-yl)-1-nitrobenzene | CN1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C11H15N3O2
